US09233958B2
1-(5-Hydroxypyridin-2-yl)-2-methylpropan-1-one
1.0 M Isopropylmagnesium chloride-tetrahydrofuran solution (104 mL, 104 mmol) was slowly added to a tetrahydrofuran (80 mL) solution of 5-hydroxypyridin-2-carbonitrile (5.00 g, 41.6 mmol) at 0° C., and the mixture was stirred at the same temperature for 3 hours. 1 M Hydrochloric acid was added to the reaction mixture, subsequently, a saturated aqueous solution of sodium hydrogen carbonate was added to the resulting mixture to adjust the pH to 6, and then the mixture was extracted twice with ethyl acetate. The organic layer thus obtained was washed with brine, and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=80:20→50:50, v/v) to give the title compound (3.35 g, yield: 49%).

reactant | Isopropylmagnesium chloride tetrahydrofuran | 104 mmol, 1.0 M, 104 mL | C(C)(C)[Mg]Cl.O1CCCC1
reactant | 5-hydroxypyridin-2-carbonitrile | 41.6 mmol, 5.00 g | OC=1C=CC(=NC1)C#N | C6H4N2O
reactant | Hydrochloric acid | 1 M | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | 1-(5-Hydroxypyridin-2-yl)-2-methylpropan-1-one | 3.35 g, yield: 49% | OC=1C=CC(=NC1)C(C(C)C)=O | C9H11NO2
